US09169249B2
A MeOH (20 ml) solution of (8aR)-2,2-difluoro-octahydro-5,5-dimethyl-N—((S)-1-phenylethyl)indolizin-7-amine hydrogen chloride and Pd(OH)2—C (20% on activated carbon, 50% wet, 0.2 g) was hydrogenated in a Parr flask under 45 psi of hydrogen. Additional Pd(OH)2—C was added (˜0.2 g) was added at 16 hours and 24 hours, and the reaction went to completion at 39 hours monitored by LC-MS. Solid was removed by filtration through a short Celite column, washing with MeOH. Filtrate was collected, solvent was removed in vacuo. Compound (8aR)-2,2-difluoro-octahydro-5,5-dimethylindolizin-7-amine hydrogen chloride was obtained as an off-white solid and was used directly in next reaction: 0.56 g; LRMS] (M+H) m/z 204.99.

reactant | (8aR)-2,2-difluoro-octahydro-5,5-dimethyl-N—((S)-1-phenylethyl)indolizin-7-amine hydrogen chloride | Cl.FC1(C[C@H]2CC(CC(N2C1)(C)C)N[C@@H](C)C1=CC=CC=C1)F
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 ml | CO | CH4O
product | (8aR)-2,2-difluoro-octahydro-5,5-dimethylindolizin-7-amine hydrogen chloride | Cl.FC1(C[C@H]2CC(CC(N2C1)(C)C)N)F | InChI=1S/C10H18F2N2.ClH/c1-9(2)4-7(13)3-8-5-10(11,12)6-14(8)9;/h7-8H,3-6,13H2,1-2H3;1H/t7?,8-;/m1./s1
